US04582837
2-(2'-Methoxy-4'-methylsulfinylmethyl-phenyl)-imidazo[4,5-b]pyridine
A quantity of 1.4 gm (4.9 mmol) of 2-(2'-methoxy-4'-methylthiomethyl-phenyl)-imidazo[4,5-b]pyridine was dissolved in 30 ml of glacial acetic acid and mixed with 3 ml of 30% hydrogen peroxide. After stirring for two hours at ambient temperature, the solution was diluted with 200 ml of water, made alkaline with concentrated ammonia solution, saturated with sodium chloride, and extracted three times with 30 ml of methylene chloride. The organic extracts were concentrated by evaporation, and the solid residue was purified by column chromatography (200 gm of silica gel; eluant: methylene chloride with 2 to 10% of ethanol).

reactant | 2-(2'-methoxy-4'-methylthiomethyl-phenyl)-imidazo[4,5-b]pyridine | 4.9 mmol, 1.4 gm | COC1=C(C=CC(=C1)CSC)C=1NC=2C(=NC=CC2)N1 | C15H15N3OS
reactant | hydrogen peroxide | 3 ml | OO | H2O2
reactant | ammonia | N | H3N
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | 2-(2'-Methoxy-4'-methylsulfinylmethyl-phenyl)-imidazo[4,5-b]pyridine | COC1=C(C=CC(=C1)CS(=O)C)C=1NC=2C(=NC=CC2)N1 | C15H15N3O2S
